US07714009B2
N-(7-Amino-1,3-benzothiazol-2-yl)-2,4,6-trimethylbenzamide
To 0.200 (0.586 mmol) of 2,4,6-trimethyl-N-(7-nitro-1,3-benzothiazol-2-yl)benzamide in 5 mL of THF was added a pipet tip of Raney nickel. The reaction was kept under a hydrogen atmosphere via a balloon and stirred at room temperature for 90 min. The catalyst was removed via filtration and the filtrate was concentrated in vacuo to give a burnt orange solid. The resulting crude solid was purified by flash chromatography eluting with 25% ethyl acetate/hexanes mixture to give 0.118 g (65%) of the title compound as a light yellow powder.

reactant | 2,4,6-trimethyl-N-(7-nitro-1,3-benzothiazol-2-yl)benzamide | CC1=C(C(=O)NC=2SC3=C(N2)C=CC=C3[N+](=O)[O-])C(=CC(=C1)C)C | C17H15N3O3S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | N-(7-Amino-1,3-benzothiazol-2-yl)-2,4,6-trimethylbenzamide | 0.118 g, 65% | NC1=CC=CC=2N=C(SC21)NC(C2=C(C=C(C=C2C)C)C)=O | C17H17N3OS
